US05756769
2-Butynyl methanesulfonate (18.7 g, 126 mol) and benzaldehyde (17.8 g, 168 mmol) were dissolved in 64 g of toluene and an aqueous 28% ammonia solution (68.1 g, 1.12 mol) was added dropwise at 23° C. over 3.5 hours to the solution, followed by stirring at the same temperature for 6 hours. After separating, the resulting organic phase was washed with water and concentrated to obtain 24.3 g of a crude product containing 17.4 g (yield: 88%) of N-benzylidene-2-butynylamine. To obtain 10.6 g (purity: 98%) of N-benzylidene-2-butynylamine, 17.3 g of this crude product was distilled off.

reactant | 2-Butynyl methanesulfonate | 126 mol, 18.7 g | CS(=O)(=O)OCC#CC | C5H8O3S
reactant | benzaldehyde | 168 mmol, 17.8 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonia | 1.12 mol, 68.1 g | N | H3N
solvent | toluene | 64 g | C1(=CC=CC=C1)C | C7H8
product | N-benzylidene-2-butynylamine | 17.4 g, yield: 88% | C(C1=CC=CC=C1)=NCC#CC | C11H11N
